US07759376B2
Step 3. Preparation of methyl N-[(4′-amino-3-methylbiphenyl-4-yl)carbonyl]-L-valinate
Iron powder (0.79 g, 14 mmol) was added to a solution of methyl N-[(3-methyl-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate (0.65 g, 1.4 mmol) in ethanol (20 mL). Concentrated HCl (0.71 mL, 1.4 mmol) was added, and the mixture was heated at reflux for 1 h. Upon cooling to rt, the mixture was filtered through a pad of Celite®, and the filtrate was concentrated in vacuo. The material was purified by column chromatography (33% EtOAc in hexanes), yielding 0.50 g (quantitative) of the title compound. LC/MS m/z 341.1 (MH+), retention time 2.19 min. 1H NMR (400 MHz, CD2Cl2) δ 1.06 (dd, 6H), 2.32-2.39 (m, 1H), 2.50 (s, 3H), 3.78 (s, 3H), 4.71-4.78 (m, 1H), 6.33 (d, 1H), 6.78 (d, 2H), 7.38-7.44 (m, 5H).

reactant | methyl N-[(3-methyl-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate | 1.4 mmol, 0.65 g | CC=1C=C(C=CC1C(=O)N[C@@H](C(C)C)C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O5
reactant | HCl | 1.4 mmol, 0.71 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Iron | 14 mmol, 0.79 g | [Fe] | Fe
product | methyl N-[(4′-amino-3-methylbiphenyl-4-yl)carbonyl]-L-valinate | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)N[C@@H](C(C)C)C(=O)OC)C | C20H24N2O3
